US09376442B2
(1R,3S)-3-[(tert-Butoxycarbonyl)amino]cyclopentyl methanesulfonate
Methansulfonyl chloride (8.2 g; 72.0 mmol) is slowly added to an ice cold solution of commercially available tert-butyl [(1S,3R)-3-hydroxycyclopentyl]carbamate (12.1 g; 60.0 mmol) and 2,6-lutidine (9.6 g; 90.0 mmol) in dry dichloromethane (300 mL). The stirred reaction mixture is allowed to warm to ambient temperature over night. The reaction mixture is extracted with water, ice cold 1N HCl, half saturated brine, and dried over MgSO4. After filtration through a pad of neural alumina (act. 2-3) the solvent is removed under reduced pressure to yield the crude title compound as yellow oil that is processed without additional purification.

reactant | Methansulfonyl chloride | 72.0 mmol, 8.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl [(1S,3R)-3-hydroxycyclopentyl]carbamate | 60.0 mmol, 12.1 g | O[C@H]1C[C@H](CC1)NC(OC(C)(C)C)=O | C10H19NO3
reactant | 2,6-lutidine | 90.0 mmol, 9.6 g | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (1R,3S)-3-[(tert-Butoxycarbonyl)amino]cyclopentyl methanesulfonate | CS(=O)(=O)O[C@H]1C[C@H](CC1)NC(=O)OC(C)(C)C | C11H21NO5S
